US04496567
Reaction of dimethylamine with 4-bromobenzyl bromide in cold benzene gave 4-bromo-N,N-dimethylbenzylamine which was successively reacted with magnesium, formaldehyde, and cysteamine (in a similar procedure to Example 7) to give 2-[4-(dimethylaminomethyl)benzylthio]ethylamine as an oil.

reactant | dimethylamine | CNC | C2H7N
reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-bromo-N,N-dimethylbenzylamine | BrC1=CC=C(CN(C)C)C=C1 | C9H12BrN
